US07863290B2
1.95 g (7.354 mmol) of 5-(2-bromopyrid-5-yl)-1-azabicyclo[3.2.1]oct-3-ene (WO 03/057 697) are introduced into 40 ml of methanol in a hydrogenation flask, and 195 mg of platinum oxide are then placed in suspension. The medium is stirred at room temperature under a hydrogen pressure of 26 psi for 45 minutes. The reaction medium is filtered through diatomaceous earth and the solvent is removed by evaporation under reduced pressure. The residue obtained is purified by chromatography on a column of silica gel, eluting with a mixture of chloroform, methanol and aqueous ammonia in 95/5/0.5 proportions. 1.4 g of 5-(2-bromopyrid-5-yl)-1-azabicyclo[3.2.1]octane are obtained in the form of a waxy oil.

reactant | 5-(2-bromopyrid-5-yl)-1-azabicyclo[3.2.1]oct-3-ene | 7.354 mmol, 1.95 g | BrC1=NC=C(C=C1)C12C=CCN(CC1)C2 | C12H13BrN2
catalyst | platinum oxide | 195 mg | [Pt]=O
solvent | methanol | 40 ml | CO | CH4O
product | 5-(2-bromopyrid-5-yl)-1-azabicyclo[3.2.1]octane | 1.4 g | BrC1=NC=C(C=C1)C12CCCN(CC1)C2 | C12H15BrN2
